US08242153B2
d) (S)-2-Amino-5-methyl-5-phenyl-hexan-1-ol
To a suspension of lithium aluminum hydride (68 mg) in tetrahydrofuran (3 ml) was added a solution of (S)-2-amino-5-methyl-5-phenyl-hexanoic acid ethyl ester (280 mg) in tetrahydrofuran (1 ml) and the mixture was stirred for 3 hours at room temperature. Sodium sulphate solution (1N) was added until gas evolution ceased and the suspension was filtered through Celite. The solvent was evaporated and the residue was purified by chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: dichloromethane/MeOH=90:10) to yield a light yellow oil, (122 mg, 52%); MS (ISP): 208.2 ((M+H)+).

reactant | lithium aluminum hydride | 68 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (S)-2-amino-5-methyl-5-phenyl-hexanoic acid ethyl ester | 280 mg | C(C)OC([C@H](CCC(C)(C1=CC=CC=C1)C)N)=O | C15H23NO2
reactant | Sodium sulphate | 1N | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (S)-2-Amino-5-methyl-5-phenyl-hexan-1-ol | N[C@H](CO)CCC(C)(C1=CC=CC=C1)C | C13H21NO
